US07259157B2
The N-[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-isonicotinamide was prepared from C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine and isonicotinic acid as described above in EXAMPLE 1, Step 2.

reactant | C-[1-(2-phenyl-ethanesulfonyl)-piperidin-4-yl]-methylamine | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CN | C14H22N2O2S
reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
product | N-[1-(2-Phenyl-ethanesulfonyl)-piperidin-4-ylmethyl]-isonicotinamide | C1(=CC=CC=C1)CCS(=O)(=O)N1CCC(CC1)CNC(C1=CC=NC=C1)=O | C20H25N3O3S
